US06303627B1
A solution of 25 gm (159 mMol) ethyl piperidine-4-carboxylate in 240 mL dioxane and 160 mL water was first cooled to 0° C., and then 33.7 gm (318 mMol) sodium carbonate and 38 gm (175 mMol) di-tert-butyldicarbonate were added. After stirring at room temperature for 18 hours, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and the mixture was treated with 1.5 M aqueous sodium hydrogen sulfate until the pH was about 2. The phases were separated and the organic phase was washed with saturated aqueous sodium chloride, dried of over sodium sulfate, and concentrated to provide 39.2 gm (96%) ethyl 1-tert-butoxycarbonylpiperidine-4-carboxylate as a clear oil.

reactant | ethyl piperidine-4-carboxylate | 159 mMol, 25 gm | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium carbonate | 318 mMol, 33.7 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyldicarbonate | 175 mMol, 38 gm | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 240 mL | O1CCOCC1 | C4H8O2
solvent | water | 160 mL | O | H2O
product | ethyl 1-tert-butoxycarbonylpiperidine-4-carboxylate | 39.2 gm, 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC | C13H23NO4
